US04861769
A suspension of ethyl 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(cyclopropyloxyimino)acetate (syn isomer)(763 mg) in 1N sodium hydroxide (6 ml) was stirred at ambient temperature for 2 hours to give a clear solution. The mixture was adjusted to pH 4.5 with 1N hydrochloric acid and washed with ethyl acetate. The aqueous solution was adjusted to pH 3 with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated aqueus sodium chloride, dried over magnesium sulfate, and crystallized from diethyl ether to give 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-cyclopropyloxyiminoacetic acid (syn isomer) (110 mg) as a crystal.

reactant | ethyl 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(cyclopropyloxyimino)acetate | 763 mg | NC1=NC(=NS1)C(C(=O)OCC)=NOC1CC1 | C9H12N4O3S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
product | 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-cyclopropyloxyiminoacetic acid | 110 mg | NC1=NC(=NS1)C(C(=O)O)=NOC1CC1 | C7H8N4O3S
